US08357706B2
Prepared using General Procedure 2. A solution of 2-(3,4-diethoxyphenyl)acetic acid (150.0 mg, 0.67 mmol) in DMF (3 mL) was treated with HOBt (164.8 mg, 1.22 mmol) and EDC (172.7 mg, 0.9 mmol) at room temperature. The reaction was stirred for 2 h until the complete formation of the HOBt-acid complex. (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-54 (233.8 mg, 0.8 mmol) was added and stirred at room temperature for 2 h and then mixture was heated to 80° C. for 16 h. The reaction was diluted with NaHCO3 (10 mL) and extracted with EA (3×10 ml). The organic phase was dried over MgSO4 and the crude product was purified by a chromatography (EA/hexanes) to produce (R)-tert-butyl 4-(5-(3,4-diethoxybenzyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-56 (187 mg, 58%) as off-white solid and used directly in the next step. LCMS-ESI (m/z) calculated for C27H33N3O5: 479.2; found 502.2 [M+Na]+, tR=4.11 min. 1H NMR (400 MHz, CDCl3) δ 7.91 (d, J=7.6 Hz, 1H), 7.39 (d, J=7.5 Hz, 1H), 7.27 (t, J=7.7 Hz, 1H), 6.81 (ddd, J=20.2, 12.8, 5.1 Hz, 3H), 5.18 (d, J=8.4 Hz, 1H), 4.69 (d, J=8.3 Hz, 1H), 4.15 (d, J=6.1 Hz, 2H), 4.06-3.93 (m, 4H), 3.32 (ddd, J=17.4, 8.8, 3.4 Hz, 1H), 3.14-2.91 (m, 1H), 2.65-2.40 (m, 1H), 1.75 (dq, J=12.9, 8.4 Hz, 1H), 1.36 (ddd, J=40.2, 26.9, 22.6 Hz, 15H).

reactant | 2-(3,4-diethoxyphenyl)acetic acid | 0.67 mmol, 150.0 mg | C(C)OC=1C=C(C=CC1OCC)CC(=O)O | C12H16O4
reactant | HOBt | 1.22 mmol, 164.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.9 mmol, 172.7 mg
reactant | (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate | ONC(=N)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H21N3O3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | (R)-tert-butyl 4-(5-(3,4-diethoxybenzyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ylcarbamate | C(C)OC=1C=C(CC2=NC(=NO2)C2=C3CC[C@H](C3=CC=C2)NC(OC(C)(C)C)=O)C=CC1OCC | C27H33N3O5
